US05780454
A. N-Boc-1,2,3,4-Tetrahydro-3-isoquinolinecarboxylic acid
A solution of 1,2,3,4-tetrahydro-3-isoquinolinecarboxylic acid (855 mg, 4.83 mmol), (Boc)2O (1.37 g, 6.28 mmol), and 1N NaOH (6 mL) in a mixture of t-BuOH (12 mL) and water (12 mL) was stirred overnight at room temperature. The reaction mixture was diluted with water (30 mL) and washed with ether-hexanes (1:1,2×25 mL). The organic layer was back-extracted with 10% NaHCO3. The combined aqueous layers were carefully acidified to pH 2-3 and extracted with EtOAc (3×30 mL). The combined organic extracts were washed with water and saturated aqueous NaCl, dried (MgSO4), and concentrated to provide the title compound (1.27 g) as a white solid.

reactant | 1,2,3,4-tetrahydro-3-isoquinolinecarboxylic acid | 4.83 mmol, 855 mg | C1NC(CC2=CC=CC=C12)C(=O)O | C10H11NO2
reactant | (Boc)2O | 6.28 mmol, 1.37 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaOH | 1N, 6 mL | [OH-].[Na+]
solvent | t-BuOH | 12 mL | CC(C)(C)O | C4H10O
solvent | water | 12 mL | O | H2O
solvent | water | 30 mL | O | H2O
product | N-Boc-1,2,3,4-Tetrahydro-3-isoquinolinecarboxylic acid | 1.27 g | C(=O)(OC(C)(C)C)N1CC2=CC=CC=C2CC1C(=O)O | C15H19NO4
